US04277474
A mixture of 3.3 g of 6'-benzyloxy-2-methyl-3-piperidino-2'-propionaphthonehydrochloride, 5 ml of concentrated hydrochloric acid and 40 ml of acetic acid was agitated under heating at 90° C. for 6 hours. Aqueous solution of sodium bicarbonate was added thereto, and the mixture was extracted with ether-ethyl acetate (2:1). After washing with water, 1% hydrochloric acid was added to move the object product to aqueous phase. It was washed with ether-ethyl acetate and made to be alkaline by aqueous solution of sodium bicarbonate, and then extracted by ether. After washingwith water and drying, purification by silica gel column chromatography andactive carbon treatment were conducted. Crystals obtained by concentrating under reduced pressure were recrystallized from ethanol-ether, thus producing 1.0 g of 6'-hydroxy-2-methyl-3-piperidino-2'-propionaphthone hydrochloride of light-brown crystals.

reactant | 6'-benzyloxy-2-methyl-3-piperidino-2'-propionaphthonehydrochloride | 3.3 g | Cl.C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)C(C(CN1CCCCC1)C)=O
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 6'-hydroxy-2-methyl-3-piperidino-2'-propionaphthone hydrochloride | 1.0 g | Cl.OC=1C=C2C=CC(=CC2=CC1)C(C(CN1CCCCC1)C)=O | InChI=1S/C19H23NO2.ClH/c1-14(13-20-9-3-2-4-10-20)19(22)17-6-5-16-12-18(21)8-7-15(16)11-17;/h5-8,11-12,14,21H,2-4,9-10,13H2,1H3;1H
